US06100352
indenyltitaniumtriethoxide;
aniumtrimethoxide; indenyltrimethyltitanium; indenyltribenzyltitanium; 1,2,3,4,5,6,7,8-octahydrofluorenyltitaniumtrimethoxide;

reactant | indenyltrimethyltitanium | C1(C=CC2=CC=CC=C12)[Ti](C)(C)C
reactant | indenyltribenzyltitanium | C1(C=CC2=CC=CC=C12)[Ti](CC1=CC=CC=C1)(CC1=CC=CC=C1)CC1=CC=CC=C1
reactant | 1,2,3,4,5,6,7,8-octahydrofluorenyltitaniumtrimethoxide | C[O-].C[O-].C[O-].C1(CCCC=2C=3CCCCC3CC12)[Ti+3]
product | indenyltitaniumtriethoxide | [O-]CC.[O-]CC.[O-]CC.C1(C=CC2=CC=CC=C12)[Ti+3] | InChI=1S/C9H7.3C2H5O.Ti/c1-2-5-9-7-3-6-8(9)4-1;3*1-2-3;/h1-7H;3*2H2,1H3;/q;3*-1;+3
